US05123951
A nitrogen-degassed solution of 37.5 grams (0.69 mole) of 2-butyne and 20.0 grams (0.13 mole) of dimethyl diazomalonate in approximately 325 grams of hexafluorobenzene was photolyzed for approximately 100 hours, at 0° C.-5° C., employing a 100-watt Hanovia mercury lamp in a manner similar to that described in Example XCVI Part A. Similar workup of the reaction mixture afforded 10.8 grams (0.06 mole) of dimethyl 2,3-dimethyl-2-cyclopropene-1,1-dicarboxylate. NMR analysis of the product indicated the following:

reactant | 2-butyne | 0.69 mole, 37.5 grams | CC#CC | C4H6
reactant | dimethyl diazomalonate | 0.13 mole, 20.0 grams | [N+](=[N-])=C(C(=O)OC)C(=O)OC | C5H6N2O4
solvent | hexafluorobenzene | approximately 325 grams | FC1=C(C(=C(C(=C1F)F)F)F)F | C6F6
catalyst | mercury | [Hg] | Hg
product | dimethyl 2,3-dimethyl-2-cyclopropene-1,1-dicarboxylate | 0.06 mole, 10.8 grams | CC=1C(C1C)(C(=O)OC)C(=O)OC | C9H12O4
